US07544689B2
(3RS,4S)-4-Amino-2-methyl-hexan-3-ol
To a stirred solution of (3RS,4S)-2-methyl-4-(trityl-amino)-hexan-3-ol (0.36 g, 1 eq, 0.97 mmol) in DCM (20 mL) under an argon atmosphere at room temperature, was added CF3COOH (5 mL) dropwise, and the solution was stirred at this temperature for 1 h. The solvent was evaporated in vacuo, the residue was precipitated from Et2O (10 mL) with hexiane (90 mL) with stirfing to give a yellow oil. The solvent was decanted from the oil, and the oil was washed with hexane (20 mL) and dried in vacuo to afford the title compound as a light yellow oil. Yield: 0.13 g (100%). (50% de 3R,4S: 50% de 3S,4S) 1H-NMR (d6-DMSO, 250 MHz): δ 0.85-1.01 (m, 9H, NH2CH (CH2CH3)CH(CH(CH(CH3)2)OH), 1.44-1.76 (m, 2H, NH2CH(CH2CH3)CH (CH(CH3)2) OH), 2.94 (m, 1H, NH2CH(CH2CH3)CH(CH(CH3)2)OH), 3.17 (m, 1H, NH2CH(CH2CH3)CH(CH(CH3)2)OH), 3.40 (m, 1H, NH2CH(CH2CH3)CH (CH(CH3)2)OH), 7.54 (bs, 2H, NHCH(CH2CH3)CH(CH(CH3)2)OH).

reactant | (3RS,4S)-2-methyl-4-(trityl-amino)-hexan-3-ol | 0.97 mmol, 0.36 g, 1 eq | CC(C)C([C@H](CC)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)O | C26H31NO
reactant | CF3COOH | 5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | (3RS,4S)-4-Amino-2-methyl-hexan-3-ol | N[C@H](C(C(C)C)O)CC | C7H17NO
